US04082821
16.4 g (0.1 mole) of benzoin methyl ether are dissolved in 100 ml of dimethyl sulphoxide. While passing in nitrogen, 3ml of 4 normal sodium hydroxide solution are added dropwise. Then 18 g (0.11 mole) of diethyl vinylphosphonate are added dropwise in the course of 10 minutes. The reaction mixture is stirred for 16 hours at room temperature under nitrogen and subsequently neutralised with 2 normal hydrochloric acid. After the reaction mixture has been completely concentrated under reduced pressure, the oily residue is taken up in toluene, washed twice with water and again completely concentrated by rotory evaporation to yield 1-oxo-2-(2-diethylphosphonoethyl)-2-methoxy-1,2-diphenylethane as a slightly viscous yellowish oil which crystallises on standing; m.p. 60°-62° C (initiator 1).

reactant | benzoin methyl ether | 0.1 mole, 16.4 g | COC(C(C1=CC=CC=C1)=O)C1=CC=CC=C1 | C15H14O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | diethyl vinylphosphonate | 0.11 mole, 18 g | C(=C)P(OCC)(OCC)=O | C6H13O3P
reactant | hydrochloric acid | Cl | ClH
solvent | dimethyl sulphoxide | 100 ml | CS(=O)C | C2H6OS
product | 1-oxo-2-(2-diethylphosphonoethyl)-2-methoxy-1,2-diphenylethane | O=C(C(C1=CC=CC=C1)(OC)CCP(=O)(OCC)OCC)C1=CC=CC=C1 | C21H27O5P
